US04672116
4-Amino-8-chloro-2,5,6-trimethoxyquinazoline
A mixture of 2,4,5,6-tetramethoxy-8-chloroquinazoline (2.1 g, 0.0073 moles) and saturated methanolic ammonia (60 ml) was warmed to 80° C. for 16 hours in a teflon lined acid digestion bomb. The crude reaction mixture was filtered, and the resulting solid was recrystallized twice from N,N-dimethylformamide, washed three times with methanol and dried under vacuum at 60° C. to afford the product (1.08 g), mp 203°-204° C.

reactant | 2,4,5,6-tetramethoxy-8-chloroquinazoline | 0.0073 moles, 2.1 g | COC1=NC2=C(C=C(C(=C2C(=N1)OC)OC)OC)Cl | C12H13ClN2O4
reactant | ammonia | 60 ml | N | H3N
product | 4-Amino-8-chloro-2,5,6-trimethoxyquinazoline | 1.08 g | NC1=NC(=NC2=C(C=C(C(=C12)OC)OC)Cl)OC | C11H12ClN3O3
